US05877120
400 g of 2-acetylthiophene, 314 g of methyl cyanoacetate and 48.8 g of ammonium acetate were dissolved in a mixture of 153 ml of acetic acid and 1.5 l of toluene, and the resulting reaction solution was refluxed under heating for 8 hours while water was removed. The reaction solution was washed sufficiently with water and then dried over anhydrous magnesium sulfate. Removal of the solvent by distillation was followed by vacuum distillation (b.p. 110°-140° C./0.05 mmHg) to give 263.4 g of methyl 2-cyano-3-(2-thienyl)crotonate. (Yield 40%)

reactant | 2-acetylthiophene | 400 g | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | methyl cyanoacetate | 314 g | C(#N)CC(=O)OC | C4H5NO2
reactant | ammonium acetate | 48.8 g | C(C)(=O)[O-].[NH4+]
reactant | water | O | H2O
solvent | acetic acid | 153 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 1.5 l | C1(=CC=CC=C1)C | C7H8
product | methyl 2-cyano-3-(2-thienyl)crotonate | 263.4 g, Yield 40% | C(#N)/C(/C(=O)OC)=C(\C)/C=1SC=CC1 | C10H9NO2S
